US06858638B2
2-Methylsulfonyl-N-[3-(1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-indazol-5-yl]benzenesulfonamide can be obtained as described in Example 47 from 157.7 mg of tert-butyl 3-iodo-5-(N-tert-butoxycarbonyl-2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate, 122 mg of 1-(tert-butoxycarbonyl)-7-azaindole-2-boronic acid, 7 ml of dimethylformamide, 500 μl of a saturated aqueous sodium hydrogencarbonate solution and 6.7 mg of tetrakis(triphenylphosphine)palladium[0]. 50 mg of 2-methylsulfonyl-N-[3-(1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-indazol-5-yl]benzenesulfonamide are thus obtained in the form of a creamy yellow solid which decomposes at approximately 200° C. (LC/MS analysis: Tr 2.88 minutes MH+=468).

reactant | tert-butyl 3-iodo-5-(N-tert-butoxycarbonyl-2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate | 157.7 mg | IC1=NN(C2=CC=C(C=C12)N(C(=O)OC(C)(C)C)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C24H28IN3O8S2
reactant | 1-(tert-butoxycarbonyl)-7-azaindole-2-boronic acid | 122 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CN=C12)B(O)O | C12H15BN2O4
reactant | sodium hydrogencarbonate | 500 μl | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 2-methylsulfonyl-N-[3-(1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-indazol-5-yl]benzenesulfonamide | 50 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)C1=CC=2C(=NC=CC2)N1 | C21H17N5O4S2
